US05552398
eq-Quinolizidin-2-ylmethyl-2-methoxyindole-3-carboxylate (E26)
A stirred solution of N-chlorosuccinimide (220 mg, 0.0016 mole) in chloroform (6 ml) at room temperature under nitrogen was treated with a solution of eq-quinolizidin-2-ylmethylindole-3-carboxylate (E9b) (330 mg, 0.0011 mole) in chloroform (6 ml) and stirred for 2 h. The solution was then treated with methanol (0.71 ml, 0.022 mole) and stirring continued. After 3 h a beige precipitate began to form and afar a further 1 h this was filtered off, washed with chloroform,and dried to afford the title compound (E26) as its hydrochloride salt mp 212°-213° C.

reactant | N-chlorosuccinimide | 0.0016 mole, 220 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | quinolizidin-2-ylmethylindole-3-carboxylate | 0.0011 mole, 330 mg | C1C(CCN2CCCCC12)COC(=O)C1=CNC2=CC=CC=C12 | C19H24N2O2
reactant | methanol | 0.022 mole, 0.71 ml | CO | CH4O
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | Quinolizidin-2-ylmethyl-2-methoxyindole-3-carboxylate | C1C(CCN2CCCCC12)COC(=O)C1=C(NC2=CC=CC=C12)OC | C20H26N2O3
